US08383637B2
(3-Dimethoxymethyl-4-nitro-phenyl)-phenyl-methanone
Phenyl-acetonitrile (0.0793 mol) in DMA (100 ml) was stirred at room temperature and 50% NaH (0.0793 mol) was added portionwise. The mixture was stirred at room temperature until the evolution of H2 had ceased. TDA-1 (0.004 mol) was added and 4-chloro-2-dimethoxymethyl-1-nitro-benzene (0.0793 mol) in DMA (30 mL) was added dropwise. The mixture was stirred at 60° C. and at 100° C. overnight. 50% NaH (0.0793 mol) was added again and the mixture was stirred further at room temperature. The mixture was poured carefully on ice/water and brought to about pH 6-7 with CH3COOH. The product was extracted with CH2Cl2. The organic layer was dried (MgSO4) and evaporated. DMA was evaporated by use of high vacuum pump to yield the title compound as a residue.

reactant | Phenyl-acetonitrile | 0.0793 mol | C1(=CC=CC=C1)CC#N | C8H7N
reactant | NaH | 0.0793 mol | [H-].[Na+]
reactant | TDA-1 | 0.004 mol | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
reactant | 4-chloro-2-dimethoxymethyl-1-nitro-benzene | 0.0793 mol | ClC1=CC(=C(C=C1)[N+](=O)[O-])C(OC)OC | C9H10ClNO4
reactant | NaH | 0.0793 mol | [H-].[Na+]
solvent | DMA | 100 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 30 mL | CC(=O)N(C)C | C4H9NO
solvent | CH3COOH | CC(=O)O | C2H4O2
product | (3-Dimethoxymethyl-4-nitro-phenyl)-phenyl-methanone | COC(C=1C=C(C=CC1[N+](=O)[O-])C(=O)C1=CC=CC=C1)OC | C16H15NO5
